US20010014691A1
3-(5-Chloro-3-pyridyloxy)propylamine
The 3-chloro-5-(3-chloropropoxy)pyridine (5.74 g, 28.0 mmol) was dissolved in methanol (25 mL) and added to concentrated ammonium hydroxide solution (29.7%, 14.8 M, 55 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 10° C. (oil bath temperature) for 6 h. After cooling, the mixture was concentrated by rotary evaporation. Saturated NaCl solution (10 mL) was added to the residue, and the solution (pH 6) was extracted with ether (3×25 mL) to remove impurities. The aqueous layer was basified to pH 10 with 10% NaOH solution, and the mixture was extracted with chloroform (4×25 mL). The combined chloroform extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 3.30 g (63.4%) of an oil.

reactant | 3-chloro-5-(3-chloropropoxy)pyridine | 28.0 mmol, 5.74 g | ClC=1C=NC=C(C1)OCCCCl | C8H9Cl2NO
reactant | ammonium hydroxide | 14.8 M, 55 mL | [OH-].[NH4+]
solvent | methanol | 25 mL | CO | CH4O
product | 3-(5-Chloro-3-pyridyloxy)propylamine | 3.30 g, 63.4% | ClC=1C=C(C=NC1)OCCCN | C8H11ClN2O
